US08980911B2
A stirred suspension of benzyl 4-amino-1H-pyrrolo[3,2-c]pyridine-1-carboxylate (1 g, 3.9 mmol, Step a)) in a mixture of dichloromethane and dimethyl ether (10:1 mL) was treated portion wise with 3-chloroperoxybenzoic acid (0.85 g, 4.9 mmol) followed by stirring at room temperature for 4 hours. The reaction was neutralized with saturated aqueous sodium bicarbonate solution. The organic layer was separated, dried over anhydrous sodium sulfate and concentrated to yield benzyl 1H-pyrrolo[3,2-c]pyridine-1-carboxylate 5-oxide (1 g, 99%).

reactant | benzyl 4-amino-1H-pyrrolo[3,2-c]pyridine-1-carboxylate | NC1=NC=CC2=C1C=CN2C(=O)OCC2=CC=CC=C2 | C15H13N3O2
reactant | 3-chloroperoxybenzoic acid | 4.9 mmol, 0.85 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dimethyl ether | 1 mL | COC | C2H6O
product | benzyl 1H-pyrrolo[3,2-c]pyridine-1-carboxylate 5-oxide | 1 g, 99% | N1(C=CC=2C=[N+](C=CC21)[O-])C(=O)OCC2=CC=CC=C2 | C15H12N2O3
